US05409928
(2) Preparation of 4-bromo-3-methylbenzyl alcohol
Ethyl 4-bromo-3-methylbenzoate (14 g, 0.058 mol) was dissolved in ether (200 ml). Under ice-cooling, to the obtained solution was added lithium aluminium hydride (1.8 g, 0.046 mol) little by little, and under this state, the mixture was stirred for 1 hour. After decomposing excessive lithium aluminium hydride with ethyl acetate, water and 10% hydrochloric acid were added, and the mixture was extracted with ethyl acetate. After washing with water and saturated aqueous sodium chloride solution, the extract was dried over anhydrous sodium sulfate, and the solvent was distilled away. The residue was separated and purified by using a column chromatography (ethyl acetate:n-hexane=1:3) to give the title compound (10.6 g, 0.053 mol).

reactant | Ethyl 4-bromo-3-methylbenzoate | 0.058 mol, 14 g | BrC1=C(C=C(C(=O)OCC)C=C1)C | C10H11BrO2
reactant | lithium aluminium hydride | 0.046 mol, 1.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 4-bromo-3-methylbenzyl alcohol | 0.053 mol, 10.6 g | BrC1=C(C=C(CO)C=C1)C | C8H9BrO
